US05098923
a) 1-benzyl-5-(3,3-diphenyl-1-hydroxypropyl)-1H-imidazole
The Gringnard reagent, diphenylethanyl magnesium chloride, is prepared by the usual way from diphenylethanylchloride (0.01 mol) and magnesium turnings (0.01 mol) in dry diethylether (30 ml). 1-benzyl-5-imidazole aldehyde (0.005 mol) is dissolved in dry diethylether and the Grignard reagent is added dropwise to the solution. The reaction mixture is refluxed for 3 hours. The reaction is then poured into 2N hydrochloric acid and extracted with diethylether. The water phase is made basic with sodium hydroxide and then extracted with ethyl acetate. The ethyl acetate phase is dried and evaporated. The residue is purified by flash-chromatography eluating with methylene chloride-methanol mixture (9.5:0.5). M.p. of the product as base is 188°-190° C.

reactant | diphenylethanyl magnesium chloride | C1(=CC=CC=C1)C(C[Mg]Cl)C1=CC=CC=C1
reactant | diphenylethanylchloride | 0.01 mol | C1(=CC=CC=C1)C(CCl)C1=CC=CC=C1 | C14H13Cl
reactant | magnesium | 0.01 mol | [Mg] | Mg
reactant | 1-benzyl-5-imidazole aldehyde | 0.005 mol | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
product | 1-benzyl-5-(3,3-diphenyl-1-hydroxypropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CC(C1=CC=CC=C1)C1=CC=CC=C1)O | C25H24N2O
